US05204473
Di-(1-methoxy-2,2,6,6-tetramethylpiperidin-4-yl) (3,5-Di-t-butyl-4-hydroxybenzyl)-n-butylmalonate
A mixture of 11.9 g (45.2 mmol) of N,N-dimethyl-3,5-di-t-butyl-4-hydroxybenzylamine, 18.8 g (37.7 mmol) of di-(1-methoxy-2,2,6,6-tetramethylpiperidin-4-yl) n-butylmalonate, 173 mg of lithium amide, and 100 ml of tetrahydrofuran is refluxed for 90 minutes. The reaction mixture is diluted with ethyl acetate (350 ml). The organic solution is washed with 1N HCl (2×100 ml), water (2×250 ml), and saturated NaHCO3 solution (250 ml), then dried over magnesium sulfate and evaporated to obtain a brown oil. Crystallization from 9:1 methanol:water affords 14.9 g (55% yield) of a white solid (mp 111°-13° C.).

reactant | N,N-dimethyl-3,5-di-t-butyl-4-hydroxybenzylamine | 45.2 mmol, 11.9 g | CN(C)CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C17H29NO
reactant | di-(1-methoxy-2,2,6,6-tetramethylpiperidin-4-yl) n-butylmalonate | 37.7 mmol, 18.8 g | C(CCC)C(C(=O)OC1CC(N(C(C1)(C)C)OC)(C)C)C(=O)OC1CC(N(C(C1)(C)C)OC)(C)C | C27H50N2O6
reactant | lithium amide | 173 mg | [NH2-].[Li+]
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 350 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | Di-(1-methoxy-2,2,6,6-tetramethylpiperidin-4-yl) (3,5-Di-t-butyl-4-hydroxybenzyl)-n-butylmalonate | 14.9 g, 55% yield | C(C)(C)(C)C=1C=C(CC(C(=O)OC2CC(N(C(C2)(C)C)OC)(C)C)(C(=O)OC2CC(N(C(C2)(C)C)OC)(C)C)CCCC)C=C(C1O)C(C)(C)C | C42H72N2O7
